US07691877B2
6-Cyclopropyl-2,4-dihydroxy-nicotinic acid ethyl ester
Sodium metal (8.1 g, 119 mmol) was cut into small pieces and added portionwise to stirred ethanol (120 mL) at room temperature under a nitrogen atmosphere. The mixture was then stirred at 60° C. under N2 overnight to ensure complete dissolution of the metal. Diethyl malonate (18.1 ml, 119 mmol) was added to the sodium ethoxide solution at 60° C. and the mixture was stirred at 60° C. under N2 for 1 h. A solution 3-Amino-3-cyclopropyl-acrylic acid ethyl ester (10.3 g, 40 mmol) in ethanol (10 mL) was added dropwise at 60° C. and the mixture was heated at reflux under N2 for 5 days to give an orange suspension. The mixture was allowed to cool to room temperature and the resulting solid collected by filtration. The filtrate was concentrated in vacuo to give more solid. The combined solids were dissolved in water (150 mL) and the solution washed with EtOAc (150 mL). The aqueous was acidified to pH2 using concentrated HCl causing a white solid to precipitate. The solid was collected by filtration, washed with cold water and then Et2O, and then dried in vacuo at 40° C. overnight to give the title product (5.32 g) as a fine white solid. The filtrate was concentrated in vacuo to half its volume causing more product to precipitate. This second crop of solid was collected by filtration, washed with water and Et2O and dried in vacuo at 40° C. to give a further 0.35 g of the title compound as a pale beige solid.

reactant | Sodium | 119 mmol, 8.1 g | [Na] | Na
reactant | Diethyl malonate | 119 mmol, 18.1 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-Amino-3-cyclopropyl-acrylic acid ethyl ester | 40 mmol, 10.3 g | C(C)OC(C=C(C1CC1)N)=O | C8H13NO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 6-Cyclopropyl-2,4-dihydroxy-nicotinic acid ethyl ester | 5.32 g | C(C)OC(C1=C(N=C(C=C1O)C1CC1)O)=O | C11H13NO4
